US04698353
4-Ethyl-5-Pyridin-4-yl-2(3H)-Oxazolone
1-Hydroxy-1-(4-pyridyl)butan-2-one (26.4 g, 0.16 mol) was dissolved in 350 ml of 2N HCl. Potassium cyanate (38.9 g, 0.48 mol) was added portionwise to this solution over a period of one hour with stirring. After the addition was complete, concentrated hydrochloric acid was added until the pH of the solution was one. After an additional hour the reaction mixture was made basic by addition of sodium bicarbonate solution and the resulting mixture was stirred overnight. The resulting solid precipitated was collected and recrystallized twice from 50% aqueous ethanol to yield the title compound (14.4 g, 47% of theoretical yield), m.p. 287°-289° C. (dec.).

reactant | 1-Hydroxy-1-(4-pyridyl)butan-2-one | 0.16 mol, 26.4 g | OC(C(CC)=O)C1=CC=NC=C1 | C9H11NO2
reactant | Potassium cyanate | 0.48 mol, 38.9 g | [O-]C#N.[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 2N, 350 ml | Cl | ClH
product | 4-Ethyl-5-Pyridin-4-yl-2(3H)-Oxazolone | 14.4 g, 47% | C(C)C=1NC(OC1C1=CC=NC=C1)=O | C10H10N2O2
